US06291452B1
A mixture of (3RS)-3-acetoxy-5-(2-fluorophenyl)-9-chloro-2,3-dihydro-1H-1,4-benzodiazepin-2-one (3.60 g), sodium iodide (15.59 g) and potassium phthalimide (2.89 g) in dimethylformamide (25 ml) was stirred at 100° C. for 1 hour. The reaction mixture was poured into ice-water and the resultant precipitate was collected by filtration. After washing with water several times and dried over phosphorus pentoxide under reduced pressure, the crude powder was subjected to column chromatography on silica gel eluting with a mixture of chloroform and methanol (100:1). The fractions containing the desired product were combined and evaporated in vacuo to give (3RS)-3-phthalimido-5-(2-fluorophenyl)-9-chloro-2,3-dihydro-1H-1,4-benzodiazepin-2-one (0.82 g, 18.9% yield) as a crystalline powder.

reactant | (3RS)-3-acetoxy-5-(2-fluorophenyl)-9-chloro-2,3-dihydro-1H-1,4-benzodiazepin-2-one | 3.60 g | C(C)(=O)OC1C(NC2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2Cl)=O | C17H12ClFN2O3
reactant | sodium iodide | 15.59 g | [I-].[Na+]
reactant | potassium phthalimide | 2.89 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | (3RS)-3-phthalimido-5-(2-fluorophenyl)-9-chloro-2,3-dihydro-1H-1,4-benzodiazepin-2-one | 0.82 g, 18.9% yield | C1(C=2C(C(N1C1C(NC3=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C3Cl)=O)=O)=CC=CC2)=O | C23H13ClFN3O3
